US08008305B2
a) 4-{6-Chloro-5-[2-(4-chloro-phenyl)-ethylcarbamoyl]-pyridin-2-yl}-piperazine-1-carbo-xylic acid tert-butyl ester
In analogy to example 38 methyl 2,6-dichloronicotinic acid was coupled with 4-chlorophenethylamine and then reacted with N-Boc-piperazine. Light yellow solid.

reactant | methyl 2,6-dichloronicotinic acid | CC=1C(=NC(=C(C(=O)O)C1)Cl)Cl | C7H5Cl2NO2
reactant | 4-chlorophenethylamine | ClC1=CC=C(CCN)C=C1 | C8H10ClN
reactant | N-Boc-piperazine | C(=O)(OC(C)(C)C)N1CCNCC1 | C9H18N2O2
product | 4-{6-Chloro-5-[2-(4-chloro-phenyl)-ethylcarbamoyl]-pyridin-2-yl}-piperazine-1-carbo-xylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC(=C(C=C1)C(NCCC1=CC=C(C=C1)Cl)=O)Cl | C23H28Cl2N4O3
